US07696223B2
a) {[7-Cyano-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
A mixture of {[7-chloro-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid (30 mg), Zn(CN)2 (4.0 mg), Zn dust (0.5 mg), Pd2(dba)3 (3.2 mg), dppf (3.8 mg) in DMA (1 mL) was heated to 120° C. for 90 min; then the mixture was cooled, diluted with DMSO and purified by C18 reverse phase chromatography to give the desired title compound (11 mg). The title compound, ESI MS (m/z): 431 (M+H)+.

reactant | {[7-chloro-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | 30 mg | ClC=1N=C(C(=C2C1N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O)C(=O)NCC(=O)O | C22H15ClFN3O4
reactant | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | Zn(CN)2 | 4.0 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 0.5 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 3.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 3.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | {[7-Cyano-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | 11 mg | C(#N)C=1N=C(C(=C2C1N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O)C(=O)NCC(=O)O | C23H15FN4O4
